US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline
8.52 g (0.02 mole) of 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol in 100 ml of glacial acetic acid are heated at the boil for 3 hours, the solvent is distilled off and the residue is made to crystallize using water. Melting point 180° C.

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenyliminothiazolidin-4-ol | 0.02 mole, 8.52 g | ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC=CC=C1)C)O)S(N(C)C)(=O)=O | C18H20ClN3O3S2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-phenylimino-4-thiazoline | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=CC=C1)C)S(N(C)C)(=O)=O | C18H18ClN3O2S2
